US04096253
A solution of 1-hydroxy-3-methoxyestra-1,3,5(10)-trien-17-one (2.3g, 10 mM) in 50 ml of anhydrous pyridine is treated with 5 ml of propionic anhydride at room temperature for 24 hrs. The crude reaction mixture is evaporated in vacuo and the residue is partitioned between ether and brine. The ethereal layer is washed with a solution of copper sulfate, cold H2O and dried over sodium sulfate. Evaporation of the solvent affords 3-methoxy-1-propionyloxyestra-1,3,5(10)-trien-17-one.

reactant | 1-hydroxy-3-methoxyestra-1,3,5(10)-trien-17-one | 10 mM, 2.3g | OC1=CC(=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OC | C19H24O3
reactant | propionic anhydride | 5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-methoxy-1-propionyloxyestra-1,3,5(10)-trien-17-one | COC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C(=C1)OC(CC)=O)=O | C22H28O4
